data/oMe_Silver.jsonl
{"reaction_id": "NR-202_1-C1CCCCC1_2-c1ccc2ccccc2c1_3-c1ccc(F)cc1","level": "medium","name": "Neber Rearrangement","reactants_smiles": ["C(C1CCCCC1)(c1ccc2ccccc2c1)C(=NOS(=O)(=O)c1ccc(C)cc1)c1ccc(F)cc1"],"products_smiles": ["c1ccc(F)cc1C(=O)C(C1CCCCC1)(c1ccc2ccccc2c1)N"],"conditions": "Base, H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C-](C1CCCCC1)(c1ccc2ccccc2c1)C(=NOS(=O)(=O)c1ccc(C)cc1)c1ccc(F)cc1","step_weight": 0,"rationale": "The base abstracts the relatively acidic alpha-proton due to resonance stabilization of the resulting carbanion by the adjacent oxime group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(F)cc1C2=NC(C1CCCCC1)(c1ccc2ccccc2c1)2","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the oxime nitrogen intramolecularly, forming a strained azirine ring and displacing the tosylate, a good leaving group stabilized by resonance."},{"step": 3,"type": "rearrangement","subtype": "rearrangement","intermediate_smiles": "C(c1ccc(F)cc1)2(C(C1CCCCC1)(c1ccc2ccccc2c1)[N-]2)O","step_weight": 0,"rationale": "Water adds to the electrophilic azirine carbon, driven by ring strain relief and polarization of the C–N bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(F)cc1)2(C(C1CCCCC1)(c1ccc2ccccc2c1)[NH]2)[O-]","step_weight": 0,"rationale": "Proton transfer from the coordinated water to nitrogen stabilizes the intermediate, favored in aqueous medium."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(F)cc1C(C(C1CCCCC1)(c1ccc2ccccc2c1)[NH-])=O","step_weight": 0,"rationale": "Elimination of hydroxide from the intermediate occurs to form the carbonyl, driven by the stability of the ketone and the good leaving ability of hydroxide under these conditions."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(F)cc1C(=O)C(C1CCCCC1)(c1ccc2ccccc2c1)N","step_weight": 0,"rationale": "Final protonation of the nitrogen yields the neutral alpha-amino ketone, favored under aqueous conditions for product stability."}],"description": "Under basic aqueous conditions, the alpha-proton adjacent to the oxime tosylate is deprotonated, enabling intramolecular cyclization to an azirine via tosylate departure. Subsequent hydrolytic ring opening, proton transfers, and rearrangement yield the thermodynamically stable alpha-amino ketone."}
{"reaction_id": "NR-052_1-CC_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_3-C(F)(F)F","name": "Curtius Rearrangement","level": "medium","reactants_smiles": ["C(CC)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)C(=O)N=[N+]=[N-]"],"products_smiles": ["C(CC)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)N=C=O"],"conditions": "Heat","mechnism_text_description": "The Curtius rearrangement is the thermal decomposition of an acyl azide to form an isocyanate with the loss of nitrogen gas (N2). The reaction typically proceeds via a concerted mechanism where the alkyl or aryl group (R) attached to the carbonyl carbon migrates to the nitrogen atom simultaneously with the expulsion of dinitrogen. This migration results in the formation of an isocyanate.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(CC)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)N=C=O","step_weight": 0,"rationale": "Thermal energy promotes a concerted migration of R from carbon to nitrogen, facilitated by the excellent leaving ability of N₂ and stabilization of the developing positive charge on nitrogen, yielding the thermodynamically favored isocyanate."}],"description": "Upon heating, the acyl azide undergoes a concerted 1,2-shift where the R group migrates from the carbonyl carbon to the adjacent nitrogen. This rearrangement is driven by the release of stable N₂ gas and formation of the isocyanate."}
